US09302980B2
Methanesulfonic acid (576 mg, 6 mmol) was added to a solution of (S)—N-(tert-butoxycarbonyl)nipecotic acid (1145 mg, 5 mmol) and methanol (5 mL). When the mixture was stirred at 25° C. for 16 hours, (S)-methyl nipecotate was produced, and the object (S)-nipecotic acid was not produced.

reactant | Methanesulfonic acid | 6 mmol, 576 mg | CS(=O)(=O)O | CH4O3S
reactant | (S)—N-(tert-butoxycarbonyl)nipecotic acid | 5 mmol, 1145 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C(=O)O)CCC1 | C11H19NO4
solvent | methanol | 5 mL | CO | CH4O
product | (S)-methyl nipecotate | N1C[C@@H](C(=O)OC)CCC1 | C7H13NO2
